US07935815B2
Synthesis of 6-bromo-2-methoxy-3-(4-methyl-1H-imidazol-1-yl)pyridine
A suspension of ammonium acetate (267 g) and N-(6-bromo-2-methoxypyridin-3-yl)-N-(2-oxopropyl)formamide (199 g) in glacial acetic acid (400 ml) was stirred at 130° C. for one hour and 10 minutes. The reaction solution was returned to room temperature. Ethyl acetate and ice water were added to the reaction solution, and the reaction solution was ice-cooled. Then, concentrated aqueous ammonia (500 ml) was added dropwise and then the organic layer was separated. The resulting organic layer was sequentially washed with water and brine and dried over anhydrous magnesium sulfate. Then, the organic layer was purified by short silica gel column chromatography (carrier: Wakogel C-200; elution solvent: ethyl acetate). The eluted fraction was concentrated. The resulting residue was triturated with ethyl acetate and tert-butyl methyl ether and dried under reduced pressure to obtain 107.7 g of the title compound.

reactant | ammonium acetate | 267 g | C(C)(=O)[O-].[NH4+]
reactant | N-(6-bromo-2-methoxypyridin-3-yl)-N-(2-oxopropyl)formamide | 199 g | BrC1=CC=C(C(=N1)OC)N(C=O)CC(C)=O | C10H11BrN2O3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonia | 500 ml | N | H3N
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 6-bromo-2-methoxy-3-(4-methyl-1H-imidazol-1-yl)pyridine | 107.7 g | BrC1=CC=C(C(=N1)OC)N1C=NC(=C1)C | C10H10BrN3O
